US04112095
Preparation of 6-(m-tolyl)-1,2,4-triazolo [4,3-b]pyridazine
A mixture of 6.0 g of 3-chloro-6-(m-tolyl)pyridazine and 3.52 g of formylhydrazine in 100 ml. of n-butanol is refluxed for 48 hrs. and worked up as in Example 35 to give 2.0 g. of white crystals (from CHCl3 -hexane), m.p. 164°-166° C.

reactant | 3-chloro-6-(m-tolyl)pyridazine | 6.0 g | ClC=1N=NC(=CC1)C=1C=C(C=CC1)C | C11H9ClN2
reactant | formylhydrazine | 3.52 g | C(=O)NN | CH4N2O
reactant | n-butanol | C(CCC)O | C4H10O
solvent | CHCl3 hexane | C(Cl)(Cl)Cl.CCCCCC
product | 6-(m-tolyl)-1,2,4-triazolo [4,3-b]pyridazine | C1(=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2)C | C12H10N4
